US09169271B2
N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-7a-yl]-4-fluoro-phenyl]-5-(oxetan-2-ylmethoxy)pyrazine-2-carboxamide
1-Propanephosphonic acid cyclic anhydride 50 wt % solution in ethyl acetate (8.90 μL, 1.50 mmol) is added to a microwave vial containing a mixture of (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-2-amine (81.2 mg, 0.285 mmol), 5-(oxetan-2-ylmethoxy)pyrazine-2-carboxylic acid (140 mg, 0.300 mmol) and anhydrous dichloromethane (10 mL). The vial is sealed and the mixture stirred at room temperature overnight. The mixture is then partitioned between water and dichloromethane and the layers separated through a Phase Separating cartridge. Organics are combined and the solvent evaporated under reduced pressure. The resulting oil is dissolved in methanol, filtered, and purified by preparative-HPLC (Phenomenex Gemini 10 μm 50*150 mm C-18) (CH3CN and water with 10 mM ammonium bicarbonate, 10% to 100% CH3CN over 10 minutes at 120 ml/min) (1 injection). Fractions bearing product are concentrated to dryness overnight in a centrifugal evaporator to give the title compound as a white solid (40 mg, 28%). ES/MS (m/e): 478.2 (M+1).

reactant | 1-Propanephosphonic acid cyclic anhydride | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | ethyl acetate | 1.50 mmol, 8.90 μL | C(C)(=O)OCC | C4H8O2
reactant | (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-2-amine | 0.285 mmol, 81.2 mg | NC=1C=CC(=C(C1)[C@@]12N=C(SC[C@@]1(COC2)F)N)F | C12H13F2N3OS
reactant | 5-(oxetan-2-ylmethoxy)pyrazine-2-carboxylic acid | 0.300 mmol, 140 mg | O1C(CC1)COC=1N=CC(=NC1)C(=O)O | C9H10N2O4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]thiazin-7a-yl]-4-fluoro-phenyl]-5-(oxetan-2-ylmethoxy)pyrazine-2-carboxamide | 40 mg, 28% | NC=1SC[C@]2([C@@](N1)(COC2)C=2C=C(C=CC2F)NC(=O)C2=NC=C(N=C2)OCC2OCC2)F | C21H21F2N5O4S
